US06235731B1
Benzylchloride (187 mg, 1.48 mmol) was added to a stirred solution of N-[3-(2-oxopiperazin-1-yl)propan-1-yl]-5-thia-1,8b-diazaacenaphtylene-4-carboxamide dihydrochloride (518 mg, 1.20 mmol), triethylamine (605 mg, 5.98 mmol), sodium iodide (216 mg, 1.44 mmol) and 1,8-diazabicyclo[5.4.0]undecene (366 mg, 2.41 mmol) in acetonitrile (20 ml) at room temperature. After refluxing under nitrogen for 2 days, the reaction mixture was concentrated in vacuo. The residue was dissolved in water and extracted with chloroform. The extract was washed with brine, dried over MgSO4 and concentrated in vacuo. The residue was chromatographed on silica gel (20 g) with Ethyl acetate-Methanol (8:1) to give N-[3-(4-phenylmethyl-2-oxopiperazine-1-yl)propane-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide as a purple amorphous powdeer (303 mg, 56%).

reactant | Benzylchloride | 1.48 mmol, 187 mg | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | N-[3-(2-oxopiperazin-1-yl)propan-1-yl]-5-thia-1,8b-diazaacenaphtylene-4-carboxamide dihydrochloride | 1.20 mmol, 518 mg | Cl.Cl.O=C1N(CCNC1)CCCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32
reactant | triethylamine | 5.98 mmol, 605 mg | C(C)N(CC)CC | C6H15N
reactant | sodium iodide | 1.44 mmol, 216 mg | [I-].[Na+]
reactant | 1,8-diazabicyclo[5.4.0]undecene | 2.41 mmol, 366 mg | N12C=CCCCC2NCCC1 | C9H16N2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | N-[3-(4-phenylmethyl-2-oxopiperazine-1-yl)propane-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | C1(=CC=CC=C1)CN1CC(N(CC1)CCCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32)=O | C24H25N5O2S
